US05559081
(b) 5-(4,6-Dimethoxypyrimidin-2-ylthio)-1,2-dimethyl-4-nitro-1H-imidazole
4,6-Dimethoxy-2-mercaptopyrimidine (3.0 g) was dissolved in an aqueous solution of sodium hydroxide (0.7 g in 100 ml water). 1,2-Dimethyl-5-bromo-4-nitro-1H-imidazole (3.9 g) dissolved in ethanol (50 ml) was added dropwise, and the mixture was stirred at room temperature for 6 hours. The precipitated product was filtered, washed with water, dried and recrystallised from acetonitrile to give 3.1 g of the desired product, mp 228°-30° C.

reactant | 4,6-Dimethoxy-2-mercaptopyrimidine | 3.0 g | COC1=NC(=NC(=C1)OC)S | C6H8N2O2S
reactant | 1,2-Dimethyl-5-bromo-4-nitro-1H-imidazole | 3.9 g | CN1C(=NC(=C1Br)[N+](=O)[O-])C | C5H6BrN3O2
solvent | sodium hydroxide | 100 ml, 0.7 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(4,6-Dimethoxypyrimidin-2-ylthio)-1,2-dimethyl-4-nitro-1H-imidazole | 3.1 g | COC1=NC(=NC(=C1)OC)SC1=C(N=C(N1C)C)[N+](=O)[O-] | C11H13N5O4S
